US07691882B2
3-(3-(3-Fluoro-4-(5-fluoro-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine
To a tetrahydrofuran (5.00 mL) solution of (3-fluoro-4-(5-fluoro-pyridin-2-ylmethoxy)-phenyl)-acetohydroximoyl chloride (170 mg, 0.554 mmol) described in Manufacturing Example 94-1-3 and 3-ethynyl-pyridin-2,6-diamine (40.0 mg, 0.300 mmol) described in Manufacturing Example 13-1-3 was added triethylamine (125 μL, 0.900 mmol) at room temperature, which was stirred for 30 minutes at room temperature. Water was added to the reaction solution at room temperature, which was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=2:1→3:1) to obtain the title compound (59.0 mg, 48.0%).

reactant | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
reactant | (3-fluoro-4-(5-fluoro-pyridin-2-ylmethoxy)-phenyl)-acetohydroximoyl chloride | 0.554 mmol, 170 mg | FC=1C=C(C=CC1OCC1=NC=C(C=C1)F)CC(=NO)Cl | C14H11ClF2N2O2
reactant | 3-ethynyl-pyridin-2,6-diamine | 0.300 mmol, 40.0 mg | C(#C)C=1C(=NC(=CC1)N)N | C7H7N3
reactant | triethylamine | 0.900 mmol, 125 μL | C(C)N(CC)CC | C6H15N
solvent | Water | O | H2O
product | 3-(3-(3-Fluoro-4-(5-fluoro-pyridin-2-ylmethoxy)-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 59.0 mg, 48.0% | FC=1C=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=CC1OCC1=NC=C(C=C1)F | C21H17F2N5O2
